*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHXE350ARA470MF61G
*//   Date        : 2020/12/04
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXE350ARA470MF61G_20deg-C 1 2

C1 4 2 3.43e-05
C2 5 2 6.59e-06
C3 6 2 1.76e-06
R1 3 4 1.60e-02
R2 4 5 1.74e-01
R3 5 6 1.29e+01
L1 1 3 2.60e-09

.ENDS
*$
